US08445501B2
4-(5-Cyclopropylmethoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid [4-(2-hydroxy-acetyl)morpholin-2-ylmethyl]-amide
Starting from 4-(5-cyclopropylmethoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (morpholin-2-ylmethyl)-amide (example A147) and acetic acid chlorocarbonyl-methyl ester the title compound is obtained as colorless solid.

reactant | 4-(5-cyclopropylmethoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (morpholin-2-ylmethyl)-amide | N1CC(OCC1)CNC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC=1OCOC12)OCC1CC1 | C23H25N5O5
reactant | acetic acid chlorocarbonyl-methyl ester | ClC(=O)COC(C)=O | C4H5ClO3
product | 4-(5-Cyclopropylmethoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid [4-(2-hydroxy-acetyl)morpholin-2-ylmethyl]-amide | OCC(=O)N1CC(OCC1)CNC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC=1OCOC12)OCC1CC1 | C25H27N5O7
